US07713994B2
To a mixture of 1-(4-aminophenyl)piperidine-4-carboxylic acid dihydrochloride (2.1 g, 7.2 mmol) in 50% aqueous dioxane (34 mL) is added sodium hydroxide (1.0 g, 25 mmol), followed by di-tert-butyldicarbonate (1.9 g, 8.6 mmol). After stirring overnight at room temperature, the mixture is acidified to pH 3 with 5% aqueous potassium hydrogen sulfate solution. The mixture is extracted 3× with dichloromethane. The combined extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to give 1-{4-[(tert-butoxycarbonyl)amino]phenyl}piperidine-4-carboxylic acid as a light tan solid (1.3 g, 57%).

reactant | 1-(4-aminophenyl)piperidine-4-carboxylic acid dihydrochloride | 7.2 mmol, 2.1 g | Cl.Cl.NC1=CC=C(C=C1)N1CCC(CC1)C(=O)O
reactant | sodium hydroxide | 25 mmol, 1.0 g | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 8.6 mmol, 1.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | dioxane | 34 mL | O1CCOCC1 | C4H8O2
product | 1-{4-[(tert-butoxycarbonyl)amino]phenyl}piperidine-4-carboxylic acid | 1.3 g, 57% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)N1CCC(CC1)C(=O)O | C17H24N2O4
